US07576074B2
A solution of 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetate (salt) (0.22 g, 0.49 mmol), 1,1-dimethylethyl (3aR,6aS)-5-{[(methylsulfonyl)oxy]}hexahydro-cyclopenta [c]pyrrole-2(1H)-carboxylate (0.15 g, 0.45 mmol), potassium carbonate (0.34 g, 2.50 mmol) in N,N-dimethylacetamide (5 mL) was heated in a sealed reaction tube at 90° C. for 12 h. The crude reaction mixture was diluted with 100 mL 10% methanol in ethyl acetate and washed with saturated aqueous sodium bicarbonate (1×30 mL), water (1×30 mL) and brine (1×30 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography (SiO2, 3:2 hexanes:acetone) provided 1,1-dimethylethyl (3aR,6aS)-5-({[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy})hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (0.23 g, 98%). 1H NMR (400 MHz, d6-DMSO): 9.57 (s, 1H), 8.52 (s, 1H), 8.24 (d, 1H), 7.88 (dd, 1H), 7.78 (s, 1H), 7.62 (d, 1H), 7.13 (s, 1H), 5.15 (m, 1H), 3.96 (s, 3H), 3.42 (m, 2H), 3.36 (m, 2H), 2.80 (bs, 2H), 2.06 (m, 2H), 1.94 (m, 2H), 1.40 (s, 9H). MS (EI) for C27H30Cl2N4O4: 547 (MH+).

reactant | 4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetate | 0.49 mmol, 0.22 g | FC(C(=O)O)(F)F.ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)O
reactant | 1,1-dimethylethyl (3aR,6aS)-5-{[(methylsulfonyl)oxy]}hexahydro-cyclopenta [c]pyrrole-2(1H)-carboxylate | 0.45 mmol, 0.15 g | CS(=O)(=O)OC1C[C@@H]2[C@@H](CN(C2)C(=O)OC(C)(C)C)C1 | C13H23NO5S
reactant | potassium carbonate | 2.50 mmol, 0.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl (3aR,6aS)-5-({[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy})hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 0.23 g, 98% | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OC1C[C@@H]2[C@@H](CN(C2)C(=O)OC(C)(C)C)C1 | C27H30Cl2N4O4
